US08975254B2
a) 4-(1-(2-amino-3-methylbutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile
The title compound was prepared using the method of Example 34(c) starting from 2-chloro-4-(1H-pyrazol-3-yl)benzonitrile (0.2 g; 0.98 mmol) and tert-butyl 1-hydroxy-3-methylbutan-2-ylcarbamate (0.22 g; m 1.09 mmol). Yield 22%. 1H-NMR (400 MHz; CDCl3): δ 1.02 (m, 6H), 1.71 (m, 1H), 3.14 (m, 1H), 3.95 (m, 1H), 4.27 (m, 1H), 6.61 (d, 1H), 7.51 (d, 1H), 7.66 (d, 1H), 7.77 (dd, 1H), 7.97 (s, 1H).

reactant | 2-chloro-4-(1H-pyrazol-3-yl)benzonitrile | 0.98 mmol, 0.2 g | ClC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C10H6ClN3
reactant | tert-butyl 1-hydroxy-3-methylbutan-2-ylcarbamate | 1.09 mmol, 0.22 g | OCC(C(C)C)NC(OC(C)(C)C)=O | C10H21NO3
product | 4-(1-(2-amino-3-methylbutyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | Yield 22% | NC(CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C(C)C | C15H17ClN4
